US08541476B2
4-(Ethylsulfonyl)-1-fluoro-2-nitrobenzene (Formula I, where R═S(O)2R1, R1═CH2CH3, and X═F; Compound 2a)
To a solution of 1-(ethylsulfonyl)-4-fluorobenzene (1.36 mmol, 0.257 g) in sulfuric acid (1.32 ml) was added potassium nitrate (0.243 g) at 80° C. The mixture was stirred at 90° C. for 2 hours. Ice water (5 ml) was added and the mixture was extracted with ethyl acetate (25 ml) and washed with water (20 ml) and brine (10 ml). The organic extracts were combined and dried over sodium sulfate and concentrated. The residue was purified by column chromatography (hexane/ethylacetate 1:3) to give a light yellow solid which was crystallized from methanol. HPLC indicated 98% purity, mp 128-131° C., (0.21 g, 66% yield). 1H NMR (CDCl3): 1.35 (t, 3H, CH3), 3.21 (q, 2H, CH2), 7.55 (t, 1H, Ar—H), 8.21 (m, 1H, Ar—H), 8.64 (d, 1H, Ar—H); MS: 229 M−. Elemental Analysis (C, H, N, F, S) for C8H8FNO4S; calculated C, 41.20; H, 3.46; N, 6.01; F, 8.15; S, 13.75. found C, 41.31; H, 3.35; N, 5.85; F, 8.17; S, 13.53.

reactant | 1-(ethylsulfonyl)-4-fluorobenzene | 1.36 mmol, 0.257 g | C(C)S(=O)(=O)C1=CC=C(C=C1)F | C8H9FO2S
reactant | potassium nitrate | 0.243 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 1.32 ml | S(O)(O)(=O)=O | H2O4S
product | 4-(Ethylsulfonyl)-1-fluoro-2-nitrobenzene | 66% yield | C(C)S(=O)(=O)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C8H8FNO4S
